US09403834B2
3-(Benzylthio)-5-bromo-2-(difluoromethyl)pyridine (0.900 g, 2.73 mmol) was dissolved in CCl4 (75 mL) and water (15 mL) and the resulting biphasic solution was cooled to 0-5° C. Then Cl2 gas was slowly purged through the reaction mixture for 5 minutes and allowed to stir at room temperature for 30 minutes. The reaction mixture was diluted with water (10 mL) and CCl4 (100 mL). The organic layer was separated, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was dissolved in dry THF (5 mL) and slowly added to 2-methylpropan-2-amine (5.00 mL, 2.73 mmol) at 0-5° C. The reaction mixture was heated in a sealed tube at 60° C. for 6 h, allowed to cool to ambient temperature and diluted with EtOAc (300 mL). The solution was transferred to a separation funnel and washed with water (50 mL) followed by brine solution (25 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by CombiFlash Isco (REDISEP®, SiO2, 40 g, 0-15% EtOAc/petroleum ether) to obtain 5-bromo-N-(tert-butyl)-2-(difluoromethyl)pyridine-3-sulfonamide (0.80 g, 85%) as a brown liquid. LCMS Method B-11: retention time 2.19 min, [M+2]=345.0. 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.15 (s, 9H), 7.59 (t, J=52.8 Hz, 1H), 8.25 (br s, 1H), 8.54 (dd, J=0.8 Hz, J=2.0 Hz, 1H), 9.12 (d, J=2.0 Hz, 1H).

reactant | 3-(Benzylthio)-5-bromo-2-(difluoromethyl)pyridine | 2.73 mmol, 0.900 g | C(C1=CC=CC=C1)SC=1C(=NC=C(C1)Br)C(F)F | C13H10BrF2NS
reactant | water | 15 mL | O | H2O
reactant | 2-methylpropan-2-amine | 2.73 mmol, 5.00 mL | CC(C)(C)N | C4H11N
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | CCl4 | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-N-(tert-butyl)-2-(difluoromethyl)pyridine-3-sulfonamide | 0.80 g, 85% | BrC=1C=C(C(=NC1)C(F)F)S(=O)(=O)NC(C)(C)C | C10H13BrF2N2O2S
